US09233978B2
3-Aminomethyl-piperazine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (Compound AA) from Step 3 was dissolved in 4 mL of dichloromethane and 1 mL of DIPEA, then triphosgene (108 mg, 0.36 mmol) was added at room temperature. After the reaction mixture was stirred for 30 minutes, the solvent was removed in vacuo. The residue was dissolved in 3 mL of dichloromethane and 1 mL of TFA. The reaction mixture was stirred for 1 hour at room temperature, and the solvent was removed in vacuo to give the crude Compound X which was used directly without further purification.

reactant | 3-Aminomethyl-piperazine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | COC(=O)C1(CN(CCN1)C(=O)OC(C)(C)C)CN | C12H23N3O4
reactant | triphosgene | 0.36 mmol, 108 mg | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | DIPEA | 1 mL | CCN(C(C)C)C(C)C | C8H19N
product | methyl 3-oxo-1,2,5,6,7,8-hexahydroimidazo[1,5-a]pyrazine-8a-carboxylate | O=C1NCC2(N1CCNC2)C(=O)OC | C8H13N3O3
